* Kuijk bandgap reference chain, SkyWater sky130 PDK.
* SEEDED TOPOLOGY-SWAP BENCHMARK, copied from netlist_loops.cir with exactly
* one change: BUF_P's body (below) is replaced by BUF_N's NMOS-input-fold
* body verbatim. BUF_P's own header/port list and its slot in BANDGAP
* (buffering vbg0, the ~0.5V node) are untouched.
*
* Measured: buf0_gain_db falls from the shipped 100.16dB (PMOS-input
* complementary fold) to 73.52dB, tail node 10.1mV - an NMOS input pair's
* Vgs has a Vth floor, so it leaves almost nothing across the tail current
* source once the node it buffers sits near 0.5V. Widening that input pair
* narrows the gap without closing it (W 20->40: 78.88dB; W 20->80: 83.45dB;
* W=150 aborts the run on sky130's 100um bin ceiling) - these are measured
* facts about one knob, not a claim that ruling it out rules out every
* parameter-only fix. spec_seed_topology.yaml's buf0_loop_gain>=90.0 is
* unreachable by widening alone and is met by swapping this block's body
* back to a PMOS-input fold (folded_cascode_pmos_in_cs), which measures
* 100.16dB.
*
* amp_loops testbench: all four feedback loops broken by SERIES VOLTAGE
* INJECTION. Every break point here drives a MOS gate only, so a "DC 0 AC 1"
* source in series is an exact unidirectional break with no reactive elements,
* and the loop gain is just the ratio of the two sides.
*
* Do NOT go back to two_stage_opamp's Lfb/Cin harness. A 1MH inductor is only
* a 6.3Mohm open at 1Hz - ample against that op-amp's ~100k output impedance,
* but not against a folded cascode's tens of megohms, so the loop was never
* actually broken. Raising it to 1GH restores the open and then spreads the
* matrix over ~20 decades: measured result was gains of +189dB and -108dB with
* 63 of 225 corner measurements missing entirely.
* Device geometry below is in microns. pdk_corner.inc sets the same option,
* but it is declared here too because the tooling that reads this file (the
* tuner's area gate) parses the netlist text only and never follows includes.
.option scale=1.0u
.include "pdk_corner.inc"

* ===================== amplifier blocks =====================
* Every amplifier is a folded cascode first stage plus a common-source output
* stage, Miller-compensated with a nulling resistor - the structure actually
* used in the target design.
*
* The fold is what makes 1.62V operation possible. With a plain PMOS mirror
* load the input pair's drain sits at vdd - |Vgs_p| (~0.5V measured), leaving
* Vds(input) = Vdd - Vcm - |Vgs_p| + Vgs_n, which is at or below zero once
* Vcm reaches 1.2V. In a folded cascode that same drain node sits at
* vdd - |Vdsat| (~0.2V below the rail), because the PMOS cascode gate pcas is
* biased a full |Vgs| below vdd. That recovers ~0.5V of input headroom.
*
* Polarity convention, uniform across all four: vinp sits on X2, the input
* device whose drain feeds the OUTPUT branch. vinp up -> X2 steals current
* from that branch -> outA moves down -> the inverting CS stage moves vout up.
* So the port named vinp really is non-inverting at vout.

.subckt ERRAMP vinp vinn vout vdd vss nbias ncas pbias pcas
* ERRAMP's input common mode is Vbe, which falls to 0.549V at 125C, so its
* tail node (Vcm - Vgs_n) is the tightest headroom in the whole chain. The
* tail runs at ~1uA (L=4 quarters the mirror ratio) into a wide input pair,
* which is what keeps Vgs_n low enough: at 4uA with W=16 the tail node
* measured 35mV at 125C and the loop latched to the rail; at 1uA with W=48 it
* measures 128-175mV across every process corner.
Xt   tail nbias vss  vss sky130_fd_pr__nfet_01v8 L=4 W=4
X1   nx   vinn tail  vss sky130_fd_pr__nfet_01v8 L=1 W=48
X2   ny   vinp tail  vss sky130_fd_pr__nfet_01v8 L=1 W=48
Xp1  nx   pbias vdd  vdd sky130_fd_pr__pfet_01v8 L=2 W=8
Xp2  ny   pbias vdd  vdd sky130_fd_pr__pfet_01v8 L=2 W=8
Xc1  np   pcas  nx   vdd sky130_fd_pr__pfet_01v8 L=1 W=8
Xc2  outA pcas  ny   vdd sky130_fd_pr__pfet_01v8 L=1 W=8
Xn1  np   ncas  nr   vss sky130_fd_pr__nfet_01v8 L=1 W=4
Xn2  outA ncas  ns   vss sky130_fd_pr__nfet_01v8 L=1 W=4
Xm1  nr   np    vss  vss sky130_fd_pr__nfet_01v8 L=1 W=4
Xm2  ns   np    vss  vss sky130_fd_pr__nfet_01v8 L=1 W=4
X6   vout outA  vdd  vdd sky130_fd_pr__pfet_01v8 L=1 W=20
X7   vout nbias vss  vss sky130_fd_pr__nfet_01v8 L=1 W=4
Xcc  nz   outA  nz   nz  sky130_fd_pr__pfet_01v8 L=40 W=40
XRz  vout nz 0 sky130_fd_pr__res_high_po w=1 l=40
.ends ERRAMP

.subckt TRIMAMP vinp vinn vout vdd vss nbias ncas pbias pcas
Xt   tail nbias vss  vss sky130_fd_pr__nfet_01v8 L=1 W=8
X1   nx   vinn tail  vss sky130_fd_pr__nfet_01v8 L=1 W=20
X2   ny   vinp tail  vss sky130_fd_pr__nfet_01v8 L=1 W=20
Xp1  nx   pbias vdd  vdd sky130_fd_pr__pfet_01v8 L=1 W=16
Xp2  ny   pbias vdd  vdd sky130_fd_pr__pfet_01v8 L=1 W=16
Xc1  np   pcas  nx   vdd sky130_fd_pr__pfet_01v8 L=1 W=16
Xc2  outA pcas  ny   vdd sky130_fd_pr__pfet_01v8 L=1 W=16
Xn1  np   ncas  nr   vss sky130_fd_pr__nfet_01v8 L=1 W=8
Xn2  outA ncas  ns   vss sky130_fd_pr__nfet_01v8 L=1 W=8
Xm1  nr   np    vss  vss sky130_fd_pr__nfet_01v8 L=1 W=8
Xm2  ns   np    vss  vss sky130_fd_pr__nfet_01v8 L=1 W=8
X6   vout outA  vdd  vdd sky130_fd_pr__pfet_01v8 L=1 W=40
X7   vout nbias vss  vss sky130_fd_pr__nfet_01v8 L=1 W=8
Xcc  nz   outA  nz   nz  sky130_fd_pr__pfet_01v8 L=40 W=40
XRz  vout nz 0 sky130_fd_pr__res_high_po w=1 l=15
.ends TRIMAMP

.subckt BUF_N vinp vinn vout vdd vss nbias ncas pbias pcas
Xt   tail nbias vss  vss sky130_fd_pr__nfet_01v8 L=1 W=8
X1   nx   vinn tail  vss sky130_fd_pr__nfet_01v8 L=1 W=20
X2   ny   vinp tail  vss sky130_fd_pr__nfet_01v8 L=1 W=20
Xp1  nx   pbias vdd  vdd sky130_fd_pr__pfet_01v8 L=1 W=16
Xp2  ny   pbias vdd  vdd sky130_fd_pr__pfet_01v8 L=1 W=16
Xc1  np   pcas  nx   vdd sky130_fd_pr__pfet_01v8 L=1 W=16
Xc2  outA pcas  ny   vdd sky130_fd_pr__pfet_01v8 L=1 W=16
Xn1  np   ncas  nr   vss sky130_fd_pr__nfet_01v8 L=1 W=8
Xn2  outA ncas  ns   vss sky130_fd_pr__nfet_01v8 L=1 W=8
Xm1  nr   np    vss  vss sky130_fd_pr__nfet_01v8 L=1 W=8
Xm2  ns   np    vss  vss sky130_fd_pr__nfet_01v8 L=1 W=8
X6   vout outA  vdd  vdd sky130_fd_pr__pfet_01v8 L=1 W=40
X7   vout nbias vss  vss sky130_fd_pr__nfet_01v8 L=1 W=8
Xcc  nz   outA  nz   nz  sky130_fd_pr__pfet_01v8 L=50 W=50
XRz  vout nz 0 sky130_fd_pr__res_high_po w=1 l=40
Xcl  vss  vout  vss  vss sky130_fd_pr__nfet_01v8 L=20 W=20
.ends BUF_N

* SEEDED: this block keeps BUF_P's own header and port list, but the body
* below is BUF_N's NMOS-input fold, copied verbatim (see the file header
* comment above). vt05, the node this block buffers, sits at ~0.5V - below
* what an NMOS input pair can reach - which is why the shipped deck
* (netlist_loops.cir) uses a PMOS-input complementary fold here instead.
.subckt BUF_P vinp vinn vout vdd vss nbias ncas pbias pcas
Xt   tail nbias vss  vss sky130_fd_pr__nfet_01v8 L=1 W=8
X1   nx   vinn tail  vss sky130_fd_pr__nfet_01v8 L=1 W=20
X2   ny   vinp tail  vss sky130_fd_pr__nfet_01v8 L=1 W=20
Xp1  nx   pbias vdd  vdd sky130_fd_pr__pfet_01v8 L=1 W=16
Xp2  ny   pbias vdd  vdd sky130_fd_pr__pfet_01v8 L=1 W=16
Xc1  np   pcas  nx   vdd sky130_fd_pr__pfet_01v8 L=1 W=16
Xc2  outA pcas  ny   vdd sky130_fd_pr__pfet_01v8 L=1 W=16
Xn1  np   ncas  nr   vss sky130_fd_pr__nfet_01v8 L=1 W=8
Xn2  outA ncas  ns   vss sky130_fd_pr__nfet_01v8 L=1 W=8
Xm1  nr   np    vss  vss sky130_fd_pr__nfet_01v8 L=1 W=8
Xm2  ns   np    vss  vss sky130_fd_pr__nfet_01v8 L=1 W=8
X6   vout outA  vdd  vdd sky130_fd_pr__pfet_01v8 L=1 W=40
X7   vout nbias vss  vss sky130_fd_pr__nfet_01v8 L=1 W=8
Xcc  nz   outA  nz   nz  sky130_fd_pr__pfet_01v8 L=50 W=50
XRz  vout nz 0 sky130_fd_pr__res_high_po w=1 l=40
Xcl  vss  vout  vss  vss sky130_fd_pr__nfet_01v8 L=20 W=20
.ends BUF_P

* ===================== bandgap core =====================
.subckt BGR_CORE vbgout ampout mpgate vdd vss nbias ncas pbias pcas
Xmpout vbgout mpgate vdd vdd sky130_fd_pr__pfet_01v8 L=1 W=10

XRpa vbgout na 0 sky130_fd_pr__res_high_po w=1 l=324.74
XRpb vbgout nb 0 sky130_fd_pr__res_high_po w=1 l=324.74
Xq1  0 0 na  0 sky130_fd_pr__pnp_05v5_W3p40L3p40
XR1  nb ne8 0  sky130_fd_pr__res_high_po w=1 l=33.12
Xq8  0 0 ne8 0 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=8

Xerr nb na ampout vdd vss nbias ncas pbias pcas ERRAMP

* Cascode bias chain, every leg a scaled copy of the core's OWN PTAT current
* so the whole chain shares one zero-current degenerate state. ncas is a
* NARROWER diode than nbias, so it sits a larger Vgs above vss and leaves the
* bottom mirror its Vdsat; pcas is narrower than pbias for the same reason on
* the top side, which is what puts the fold node within a Vdsat of vdd.
Xb1 nbias  ampout vdd vdd sky130_fd_pr__pfet_01v8 L=1 W=4
Xb2 nbias  nbias  vss vss sky130_fd_pr__nfet_01v8 L=1 W=4
Xb3 ncas   ampout vdd vdd sky130_fd_pr__pfet_01v8 L=1 W=4
Xb4 ncas   ncas   vss vss sky130_fd_pr__nfet_01v8 L=1 W=1
Xb5 pbias  nbias  vss vss sky130_fd_pr__nfet_01v8 L=1 W=4
Xb6 pbias  pbias  vdd vdd sky130_fd_pr__pfet_01v8 L=1 W=4
Xb7 pcas   nbias  vss vss sky130_fd_pr__nfet_01v8 L=1 W=4
Xb8 pcas   pcas   vdd vdd sky130_fd_pr__pfet_01v8 L=1 W=1

Xsu_r nsu    vss    vdd vdd sky130_fd_pr__pfet_01v8 L=20 W=0.42
Xsu_d nsu    vbgout vss vss sky130_fd_pr__nfet_01v8 L=1  W=2
Xsu_i ampout nsu    vss vss sky130_fd_pr__nfet_01v8 L=1  W=2
* A trickle into nbias, always on. Without it the bias chain collapses with
* the core, and then every CS output stage has its NMOS sink off while its
* PMOS is fully on - so the amp output pins HIGH, the core PMOS stays off,
* and the startup pull-down (W=2) cannot outfight a W=20 PMOS. This failure
* mode did not exist before the amps gained CS output stages.
Xsu_b nbias  vss    vdd vdd sky130_fd_pr__pfet_01v8 L=20 W=0.42

Xcc vss ampout vss vss sky130_fd_pr__nfet_01v8 L=20 W=20
.ends BGR_CORE

.subckt BANDGAP vbgout vbg0 vbg1 vtop vfb vdd vss ampout mpgate trm_i b1_i b0_i
Xcore vbgout ampout mpgate vdd vss nbias ncas pbias pcas BGR_CORE
Xtrim vbgout trm_i vtop vdd vss nbias ncas pbias pcas TRIMAMP

XRl4 vtop vfb  0 sky130_fd_pr__res_high_po w=1 l=68.6
XRl3 vfb  vt12 0 sky130_fd_pr__res_high_po w=1 l=23.4
XRl2 vt12 vt05 0 sky130_fd_pr__res_high_po w=1 l=439.6
XRl1 vt05 vss  0 sky130_fd_pr__res_high_po w=1 l=313.6

Xb1 vt12 b1_i vbg1 vdd vss nbias ncas pbias pcas BUF_N
Xb0 vt05 b0_i vbg0 vdd vss nbias ncas pbias pcas BUF_P
.ends BANDGAP

Vdd vdd 0 DC 1.8
Vss vss 0 DC 0
Xdut vbgout vbg0 vbg1 vtop vfb vdd vss ampout mpgate trm_i b1_i b0_i BANDGAP

Vsc mpgate ampout DC 0 AC 0
Vst trm_i  vfb    DC 0 AC 0
Vs1 b1_i   vbg1   DC 0 AC 0
Vs0 b0_i   vbg0   DC 0 AC 0
.end
